US07034098B2
Preparation can be carried out analogously to Example 1 using 10.19 g (9.81 mmol) 2,2-bis[({2,2-bis[({(2,2,5-trimethyl-1,3-dioxan-5-yl)carbonyl}oxy)methyl]propanoyl}oxy)methyl]propanoic acid, 1.494 g (9.81 mmol) 1,8-diazabicyclo[5.4.0]undec-7-ene(l,5-5) (DBU) and 4.81 g (10.79 mmol) 11-bromoundecyl 3,5-dinitrobenzoate, to yield 11-[(3,5-dinitrobenzoyl)oxy]undecyl 2,2-bis[({2,2-bis[({(2,2,5-trimethyl-1,3-dioxan-5-yl)carbonyl}oxy)methyl]propanoyl}oxy)methyl]propanoate.

reactant | 2,2-bis[({2,2-bis[({(2,2,5-trimethyl-1,3-dioxan-5-yl)carbonyl}oxy)methyl]propanoyl}oxy)methyl]propanoic acid | 9.81 mmol, 10.19 g | CC1(OCC(CO1)(C)C(=O)OCC(C(=O)OCC(C(=O)O)(C)COC(C(C)(COC(=O)C1(COC(OC1)(C)C)C)COC(=O)C1(COC(OC1)(C)C)C)=O)(C)COC(=O)C1(COC(OC1)(C)C)C)C | C47H74O22
reactant | 11-bromoundecyl 3,5-dinitrobenzoate | 10.79 mmol, 4.81 g | [N+](=O)([O-])C=1C=C(C(=O)OCCCCCCCCCCCBr)C=C(C1)[N+](=O)[O-] | C18H25BrN2O6
product | 11-[(3,5-dinitrobenzoyl)oxy]undecyl 2,2-bis[({2,2-bis[({(2,2,5-trimethyl-1,3-dioxan-5-yl)carbonyl}oxy)methyl]propanoyl}oxy)methyl]propanoate | CC1(OCC(CO1)(C)C(=O)OCC(C(=O)OCC(C(=O)OCCCCCCCCCCCOC(C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O)(C)COC(C(C)(COC(=O)C1(COC(OC1)(C)C)C)COC(=O)C1(COC(OC1)(C)C)C)=O)(C)COC(=O)C1(COC(OC1)(C)C)C)C | C65H98N2O28
